US04486428
A. dl-5-Acetoxy-3-(3-methanesulfonyloxypropyl)-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran
To 1.823 g (4.15 mmole) dl-5-acetoxy-3-(3-hydroxypropyl)-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran was added 20 ml of pyridine, the mixture stirred under nitrogen to affect solution and cooled to 5° C. Methanesulfonyl chloride, 520 mg (4.56 mmole), was added, the resulting mixture stirred at 5°-10° C. for 20 minutes, then allowed to warm to room temperature and stirred for an additional 50 minutes. The mixture was concentrated in vacuo and the residual oil taken up in ethyl acetate, washed twice with water, once with brine and the organic layer dried over anhydrous magnesium sulfate. After evaporation of solvent in vacuo the desired product was obtained as an oil, 1.999 g.

reactant | dl-5 acetoxy-3-(3-hydroxypropyl)-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran | 4.15 mmole, 1.823 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C)(=O)OC1(C(OC2=C(C1)C=CC(=C2)OC(C)CCCC2=CC=CC=C2)(C)C)CCCO
reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | dl-5 Acetoxy-3-(3-methanesulfonyloxypropyl)-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C)(=O)OC1(C(OC2=C(C1)C=CC(=C2)OC(C)CCCC2=CC=CC=C2)(C)C)CCCOS(=O)(=O)C | InChI=1S/C28H38O7S.C18H34N4O2/c1-21(11-9-14-23-12-7-6-8-13-23)33-25-16-15-24-20-28(34-22(2)29,17-10-18-32-36(5,30)31)27(3,4)35-26(24)19-25;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h6-8,12-13,15-16,19,21H,9-11,14,17-18,20H2,1-5H3;6-7,14,20-23H,2-5,8-13,15,19H2,1H3
